US05942530
B. Preparation of 4-allyloxy-2,6-dimethyl-benzaldehyde
N-methyl formanilide, 20.5 ml (166 mmole), was chilled to 13°, where it began to solidify. Phosphorus oxychloride, 14.4 ml (155 mmole), was added with stirring, under nitrogen. After 25 minutes, the temperature was 45°. 3,5-Dimethyl-allyloxy benzene, 16.2 g (100 mmole), prepared as described above, was added with stirring and heated in a 70° C. oil bath. The reaction exothermed to 93° C. and was stirred under nitrogen for 30 minutes. The bath was removed and when the temperature reached 35°, the product was dissolved in chloroform. Ice was added, the layers were separated and washed once with water, twice with sodium bicarbonate, once with water and once with brine. The product was chromatographed down 500 ml of silica, eluting with chloroform to give 9.67 g (51%) of subtitled product which was used without further purification.

reactant | N-methyl formanilide | CN(C1=CC=CC=C1)C=O | C8H9NO
reactant | Phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3,5-Dimethyl-allyloxy benzene | CC=1C=C(C=C(C1)C)OCC=C | C11H14O
product | 4-allyloxy-2,6-dimethyl-benzaldehyde | 9.67 g, 51% | C(C=C)OC1=CC(=C(C=O)C(=C1)C)C | C12H14O2
